US05087688
2-Hydroxy-3-(o-sec-butylphenoxy)propylamine
A 2.5 liter autoclave is charged, at room temperature and under nitrogen blanketing, with 429 g (2.1 mol) of o-sec-butylphenyl glycidyl ether and 30.2 g of water. Then 698.5 g (41.08 mol) of ammonia gas is blown in under pressure over 5 minutes and the reaction mixture is thereafter heated to 80° C. over 2 hours. After 1 hour at 80° C., the reaction mixture is cooled to room temperature, the pressure in the system is removed and the reaction product is concentrated on a rotary evaporator at 80° C./13 mbar. Gas chromatographic analysis shows the resultant amine to be 92.5% pure. It has a viscosity of 1240 mPa·s.

reactant | o-sec-butylphenyl glycidyl ether | 2.1 mol, 429 g | C(C1CO1)OC1=C(C=CC=C1)C(C)CC | C13H18O2
reactant | ammonia | 41.08 mol, 698.5 g | N | H3N
solvent | water | 30.2 g | O | H2O
product | 2-Hydroxy-3-(o-sec-butylphenoxy)propylamine | OC(CN)COC1=C(C=CC=C1)C(C)CC | C13H21NO2
